US04826990
1,1,1-Trifluoro-N-[2-[(2-phenyl-4-thiazolyl)methoxy]phenyl]methanesulfonamide
A solution of 6.3 g (0.022 mol) of 2-[(2-phenyl-4-thiazolyl)methoxy]benzenamine and 3.0 g (0.03 mol) of triethylamine in 150 ml of methylene chloride is cooled to -70° C. A solution of 6.6 g (0.0234 mol) of trifluoromethanesulfonic anhydride in 50 ml of methylene chloride is added from a dropping funnel, and the mixture is allowed to warm to room temperature. The solution is concentrated in vacuo and the residue is dissolved in 300 ml of ethyl acetate/300 ml of dilute hydrochloric acid. The layers are separated and the aqueous phase is extracted with 300 ml of ethyl acetate. The combined ethyl acetate solution is twice washed with dilute brine, dried over anhydrous magnesium sulfate and concentrated to an oil, which is subjected to high pressure liquid chromatography (ethyl acetate/hexane as eluent). Fractions 7-10 are combined and concentrated to obtain 5.0 g of crystals, m.p. 122°-125° C. The crystals are triturated with ethyl acetate to obtain 2.6 g (29%) of crystals, m.p. 123°-125° C.

reactant | 2-[(2-phenyl-4-thiazolyl)methoxy]benzenamine | 0.022 mol, 6.3 g | C1(=CC=CC=C1)C=1SC=C(N1)COC1=C(C=CC=C1)N | C16H14N2OS
reactant | triethylamine | 0.03 mol, 3.0 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 0.0234 mol, 6.6 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1,1,1-Trifluoro-N-[2-[(2-phenyl-4-thiazolyl)methoxy]phenyl]methanesulfonamide | 5.0 g | FC(S(=O)(=O)NC1=C(C=CC=C1)OCC=1N=C(SC1)C1=CC=CC=C1)(F)F | C17H13F3N2O3S2
